US07179823B1
A mixture of 4-[4-(2-ethoxycarbonylethyl)-3-phenyl-1H-pyrazol-1-ylmethyl]benzoic acid (500 mg), 4-trifluoromethylbenzylamine (250 mg), 1-hydroxybenzotriazole monohydrate (210 mg), WSC (270 mg), and N,N-dimethylformamide (10 ml) was stirred at room temperature for 13 hours. The reaction mixture was poured into water, which was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium bicarbonate solution, 1 N hydrochloric acid, then, with saturated aqueous sodium chloride solution, and dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography, and ethyl 3-[3-phenyl-1-[4-(4-trifluoromethylbenzylaminocarbonyl)benzyl]-1H-pyrazol-4-yl]propionate (550 mg, yield: 77%) was obtained as a colorless amorphous substance from the fraction eluted with ethyl acetate-hexane (3:1, volume ratio).

reactant | 4-[4-(2-ethoxycarbonylethyl)-3-phenyl-1H-pyrazol-1-ylmethyl]benzoic acid | 500 mg | C(C)OC(=O)CCC=1C(=NN(C1)CC1=CC=C(C(=O)O)C=C1)C1=CC=CC=C1 | C22H22N2O4
reactant | 4-trifluoromethylbenzylamine | 250 mg | FC(C1=CC=C(CN)C=C1)(F)F | C8H8F3N
reactant | 1-hydroxybenzotriazole monohydrate | 210 mg | O.ON1N=NC2=C1C=CC=C2
reactant | WSC | 270 mg | CCN=C=NCCCN(C)C | C8H17N3
solvent | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | ethyl 3-[3-phenyl-1-[4-(4-trifluoromethylbenzylaminocarbonyl)benzyl]-1H-pyrazol-4-yl]propionate | 550 mg, yield: 77% | C1(=CC=CC=C1)C1=NN(C=C1CCC(=O)OCC)CC1=CC=C(C=C1)C(=O)NCC1=CC=C(C=C1)C(F)(F)F | C30H28F3N3O3
